US04254134
Methyl(1,3,4,9-tetrahydro-2H-carbazol-2-yl)carbamic acid, ethyl ester (Compound 3g)
A solution of 0.05 mol of 2,3,4,9-tetrahydro-N-methyl-1H-carbazol-2-amine in 450 ml of CH2Cl2 and 185 ml of saturated aqueous NaHCO3 was stirred vigorously at room temperature and treated dropwise during 30 min with a solution of 0.15 mol of ethyl chloroformate in an equal volume of CH2Cl2. After stirring vigorously for 5 hr, the CH2Cl2 layer was separated, washed in succession with 10% aqueous K2CO3, H2O, 0.1 N hydrochloric acid, H2O, and dried over anhydrous Na2SO4. The residue remaining after evaporation of the CH2Cl2 was recrystallized from ethanol to give the title compound, mp 167°-168°.

reactant | 2,3,4,9-tetrahydro-N-methyl-1H-carbazol-2-amine | 0.05 mol | CNC1CC=2NC3=CC=CC=C3C2CC1 | C13H16N2
reactant | ethyl chloroformate | 0.15 mol | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 450 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 185 ml | C(=O)(O)[O-].[Na+]
product | Methyl(1,3,4,9-tetrahydro-2H-carbazol-2-yl)carbamic acid, ethyl ester | CN(C(OCC)=O)C1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
